US09085583B2
tert-butyl((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamate (40 g, 0.27 mol) was added into dioxane/HCl (1 L) and the mixture was stirred at room temperature for 4 hr. The reaction solution was filtrated and concentrated to give crude product. The crude was washed with ethyl acetate (100 mL*2) and EtOH (50 mL*1) and concentrated to give 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one hydrochloride (15 g, 40%). LCMS (M+H+) m/z: calcd. 152.19. found 153.1. 1H NMR (DMSO, 400 MHz) δ 11.84 (s, 1H), 8.07 (s, 3H), 5.96 (s, 1H), 3.76-7.75 (d, J=5.6 Hz, 2H), 2.21 (s, 3H), 2.15 (s, 3H).

reactant | tert-butyl((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamate | 0.27 mol, 40 g | C(C)(C)(C)OC(NCC=1C(NC(=CC1C)C)=O)=O | C13H20N2O3
reactant | dioxane HCl | 1 L | O1CCOCC1.Cl
product | 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one hydrochloride | 15 g, 40% | Cl.NCC=1C(NC(=CC1C)C)=O | InChI=1S/C8H12N2O.ClH/c1-5-3-6(2)10-8(11)7(5)4-9;/h3H,4,9H2,1-2H3,(H,10,11);1H
